US04013473
40 g of cyclopentene are added dropwise at 120° C to 148 g of 1-hydroxytetraline and 10 g of p-toluene sulphonic acid. The catalyst is removed by washing with sodium hydrogen carbonate solution. The reaction mixture is fractionated. At 161° C (2 mm Hg) 58 g of 1-hydroxy-2-cyclopentyltetraline are obtained.

reactant | cyclopentene | 40 g | C1=CCCC1 | C5H8
reactant | 1-hydroxytetraline | OC1CCCC2=CC=CC=C12 | C10H12O
reactant | p-toluene sulphonic acid | 10 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-hydroxy-2-cyclopentyltetraline | 58 g | OC1C(CCC2=CC=CC=C12)C1CCCC1 | C15H20O
